US07982071B2
Addition of acetonitrile to 3-phenethoxybenzaldehyde gave 3-hydroxy-3-(3-phenethoxyphenyl)propanenitrile as a yellow oil. Yield (0.80 g, 80%): 1H NMR (400 MHz, CDCl3) δ 7.23-7.38 (m, 6H), 6.93-6.97 (m, 2H), 6.88 (dd, J=7.6, 1.8 Hz, 1H), 5.00 (t, J=″6.0 Hz, 1H), 4.18 (t, J=7.2 Hz, 2H), 3.12 (t, J=7.2 Hz, 2H), 2.75 (d, J=6.4 Hz, 2H).

reactant | 3-phenethoxybenzaldehyde | C(CC1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C15H14O2
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-hydroxy-3-(3-phenethoxyphenyl)propanenitrile | OC(CC#N)C1=CC(=CC=C1)OCCC1=CC=CC=C1 | C17H17NO2
